Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfur-8
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain, Cholelithiasis
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old Female presents from ___ after 
presenting there with 7 months of RUQ abdominal pain. The 
patient has a very extensive history of abdominal surgeries, and 
was seen at ___ with pain consistent with biliary colic 
and an ultrasound there notable for gallstones in the 
gallbladder, without evidence of choledocolithiasis or 
cholecystitis. Given her very extensive abdominal surgery 
history the surgeons at ___ felt she should come to ___ 
for surgery as they didn't feel they could safely perform a 
cholecystectomy. The patient reports the pain is worst 
post-prandial, particularly with fatty foods.

In the ___ ED, her initial vitals were 98.6, 87, 139/87, 18, 
95% She was evaluated by a liver ultrasound, which is noted 
below. An ACS consult was obtained, who did not feel this was 
consistent with cholecystitis, and that given the risk of 
operating on her with all her prior surgeries, that they would 
not plan on a operating, and that if she was admitted then we 
should obtain a HIDA scan. In the ED she recieved a total of 
0.5mg of IV dilaudid, along with her quetiapene and her 
metformin.
 
Past Medical History:
interstitial cystitis
Osteoarthritis
fibromyalgia
polycythemia ___ her IVC filter perforated her vena cava?
Type 2 Diabetes
Primary Hypertension
depression
PTSD
Hiatal hernia

PSH: ex lap due to stabbing wound with damage to liver, R
transverse incision from pain pump, IVC filter, laparoscopic 
cyst removal from ovaries, appendectomy, feeding tube, aortic
dissection (says has a left  lateral thoracotomy due to that)
 
Social History:
___
Family History:
Mother: ___
Father: ___ Cancer
 
Physical Exam:
ROS:
GEN: - fevers, - Chills, - Weight Loss
EYES: - Photophobia, - Visual Changes
HEENT: - Oral/Gum bleeding
CARDIAC: - Chest Pain, - Palpitations, - Edema
GI: - Nausea, - Vomiting, + Diarrhea, + Abdominal Pain, - 
Constipation, - Hematochezia
PULM: - Dyspnea, - Cough, - Hemoptysis
HEME: - Bleeding, - Lymphadenopathy
GU: + Dysuria (chronic), - hematuria, - Incontinence
SKIN: - Rash
ENDO: - Heat/Cold Intolerance
MSK: - Myalgia, - Arthralgia, - Back Pain
NEURO: - Numbness, - Weakness, - Vertigo, - Headache
Remainder of 10 point ROS negative except as above
 
PHYSICAL EXAM:
VSS: 98.1, 159/91, 78, 18, 100%
GEN: NAD
Pain: ___
HEENT: EOMI, MMM, - OP Lesions, pinpoint pupils
PUL: CTA B/L
COR: RRR, S1/S2, - MRG
ABD: Diffusely tender > RUQ, - rebound, - guarding, ND, +BS, - 
CVAT
EXT: - CCE
NEURO: CAOx3, Motor ___ ___ Flex/Ext
 
Pertinent Results:
___ 09:58PM BLOOD Glucose-78 UreaN-6 Creat-0.7 Na-141 K-4.0 
Cl-102 HCO3-22 AnGap-17
___ 02:05PM BLOOD Glucose-48* UreaN-7 Creat-0.6 Na-145 
K-4.8 Cl-109* HCO3-9* AnGap-27*
___ 10:12PM BLOOD ___ pO2-35* pCO2-51* pH-7.31* 
calTCO2-27 Base XS--1 Comment-GREEN TOP
___ 10:12PM BLOOD Lactate-1.2
___ 04:00PM URINE Color-Straw Appear-Clear Sp ___
___ 04:00PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 4:00 pm URINE

   URINE CULTURE (Pending): 

LIVER OR GALLBLADDER US (SINGLE ORGAN)Study Date of ___ 
8:24 ___
IMPRESSION:
1. Cholelithiasis without specific sonographic findings to 
suggest acute cholecystitis.
2. Common bile duct dilatation to 8 mm without intrahepatic 
biliary ductal dilatation.  Consider MRCP to evaluate for 
possible distal obstructing common bile duct lesion such as a 
stone.

In addition imaging from ___ is uploaded into PACS

# HIDA Scan (___): 
FINDINGS:  Serial images over the abdomen show uptake of tracer 
into the hepatic parenchyma in a homogeneous pattern. At 24 
minutes, the small bowel is visualized with tracer activity 
noted in the gallbladder at 15 minutes. Following administration 
of sincalide, the gallbladder ejection fraction was measured to 
be 88% at 60 minutes (normal values > 38%).  
IMPRESSION:  Normal hepatobiliary study. Gallbladder ejection 
fraction is normal.

 
Brief Hospital Course:
ASSESSMENT & PLAN: ___ h/o HTN, DM2, polycythemia ___, 
fibromyalgia, interstitial cystitis, depression, PTSD, mult abd 
surgeries admitted with 7 month of RUQ/midepigastric pain - with 
acute worsening.  

# RUQ/midepigastric Abd Pain 
# Cholelithiasis
# Nausea, Vomiting
   Ms. ___ was admitted with progressive RUQ/epigastric 
abd pain x months.  RUQ U/S revealing cholelithiasis with mild 
bil dil 8mm.  Referred here for consideration of CCY, but eval'd 
by ACS who felt not c/w acute cholecystitis.  Labs here was 
otherwise unremarkable.  HIDA scan was performed on ___ with 
evidence of flow into GB, and good ejection fraction.  Due to 
presence of a single cholelithiasis, she may be a candidate for 
future CCY, but she can follow up with this as outpt with 
general surgery.
   There was initial concern for ampullary stenosis given the 
mild biliary dilataion and upper quadrant pain.  MRCP was 
ordered, but there was concern for aneurysm clip - which may be 
MRI incompatible.  Multiple attempts were made to obtain OSH 
records from ___, but were unsuccessful.  Ultimately, after 
extensive observation, it was clear that Ms. ___ had 
really good appetite with ability to eat food without any 
issues.   Her good appetite, no exacerbation of pain with foods, 
and good passage of bile into duodenum (on HIDA scan) made any 
pancreatic or biliary pathology (e.g. ampullary stenosis) 
unlikely.  She was treated with PO dilaudid and then 
transitioned to short course of PO tramadol.
   
# DM2 - Mr. ___ has a single episode where her BS when 
down from 200 to 55 in span of 3 hours, despite not getting 
insulin.  She was symptomatic and relieved with glucose.  She 
had no further episodes like this in the hospital - and may be 
attributed to reactive hypoglycemia in setting of minimal PO 
intake. The metformin were held while in house for imaging 
studies.  ISS was placed for coverage. 

# c/o vaginal discharge c/w bacterial vaginosis
 Given Flagyl x 7 days.  

# Depression
- quetiapine, Buspar continued

# Sinus Tachycardia
- Patient is on Verapamil, says her resting heart rate is 
120-140 without it

# Polycythemia ___
- Aspirin 81

# Interstitial Cystitis
- Urojet

# OTHER ISSUES AS OUTLINED. 
#FEN: Clears
#DVT PROPHYLAXIS: heparin sc 
#LINES/DRAINS:  Peripheral 
#PRECAUTIONS: None
#COMMUNICATION: pt
#CONSULTS: ERCP, ACS
#CODE STATUS: full code 
#DISPOSITION: home (no need for ___ per staff) today.  No 
services needed. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 1000 mg PO DAILY 
2. QUEtiapine Fumarate 200 mg PO QHS 
3. Verapamil SR 180 mg PO Q24H 
4. BusPIRone 10 mg PO BID 
5. Lidocaine 5% Patch 1 PTCH TD QAM 
6. Lidocaine Jelly 2% (Glydo) 1 Appl TP DAILY 
7. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  MetroNIDAZOLE 500 mg PO/NG BID Duration: 7 Days 
RX *metronidazole [Flagyl] 500 mg 1 tablet(s) by mouth twice a 
day Disp #*10 Tablet Refills:*0 
2.  TraMADol 50 mg PO Q4H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *tramadol 50 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*12 Tablet Refills:*0 
3.  Aspirin 81 mg PO DAILY  
4.  BusPIRone 10 mg PO BID  
5.  Lidocaine 5% Patch 1 PTCH TD QAM  
6.  Lidocaine Jelly 2% (Glydo) 1 Appl TP DAILY  
7.  MetFORMIN (Glucophage) 1000 mg PO DAILY  
8.  QUEtiapine Fumarate 200 mg PO QHS  
9.  Verapamil SR 180 mg PO Q24H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal pain - chronic 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

    It was a pleasure looking after you.  As you know, you were 
referred here for further management of possible gallbladder 
infection (cholecystitis).   You had multiple tests here: 
including blood tests, imaging (CT scan and HIDA scan) - which 
revealed no acute disease and a good functioning gallbladder.  
For this reason, there was no need for surgery.
    MRI was ordered, but could not be obtained due to concern of 
an aneurysm clip.  However, after finding that you were eating 
well with good appetite and no exacerbation of pain with eating 
- we feel that there are no issues with your pancreas.  
    You may follow up with a general surgeon in early ___ 
for consideration of an elective gallbladder surgery.  
    Your medications otherwise remain unchanged.  Please 
continue with your meds as previously prescribed.  You were 
given a short course of Tramadol - but we recommend follow-up 
with your primary care doctor to obtain refills of medications, 
if needed. 
 
Followup Instructions:
___